US07572820B2
B. 4-Chloro-2-(difluoromethyl)-1-{[5-(6-fluoro-2-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-1H-indole-5-carbonitrile
To a solution of 6-fluoro-2-pyridinecarboxylic acid (0.006 g, 0.043 mmol) in MeCN (2 mL), under N2, was added EDCl (0.0085 g, 0.044 mmol). After 5 min, 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetohydrazide (0.012 g, 0.040 mmol) was added. After 1 h, additional 6-fluoro-2-pyridinecarboxylic acid (0.003 g, 0.02 mmol) and EDCl (0.0077 g, 0.040 mmol) were added. After another 15 min, additional 6-fluoro-2-pyridinecarboxylic acid (0.0014 g, 0.01 mmol) and EDCl (0.0046 g, 0.02 mmol) were added. After another 10 min, TsCl (0.009 g, 0.048 mmol) and P-BEMP (loading 2.2 mmol/g, 0.073 g, 0.16 mmol) were added and the mixture was heated at 120° C. for 20 min. Upon cooling, additional TsCl (0.0046 g, 0.024 mmol) and P-BEMP (0.037 g, 0.08 mmol) were added and the mixture was heated at 120° C. for another 20 min. Upon cooling, the resin was filtered off, washed with EtOAc and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (0-50% EtOAc-hexanes gradient) and the product was crystallized from CH2Cl2-hexanes to give the title compound as a white solid (0.005 g, 31% yield): MS (ES) m/z 404 (M+1).

reactant | 6-fluoro-2-pyridinecarboxylic acid | 0.043 mmol, 0.006 g | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | EDCl | 0.044 mmol, 0.0085 g | CCN=C=NCCCN(C)C.Cl
reactant | 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetohydrazide | 0.040 mmol, 0.012 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)NN)C(F)F | C12H9ClF2N4O
reactant | 6-fluoro-2-pyridinecarboxylic acid | 0.02 mmol, 0.003 g | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | EDCl | 0.040 mmol, 0.0077 g | CCN=C=NCCCN(C)C.Cl
reactant | 6-fluoro-2-pyridinecarboxylic acid | 0.01 mmol, 0.0014 g | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | EDCl | 0.02 mmol, 0.0046 g | CCN=C=NCCCN(C)C.Cl
reactant | TsCl | 0.048 mmol, 0.009 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | TsCl | 0.024 mmol, 0.0046 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 4-Chloro-2-(difluoromethyl)-1-{[5-(6-fluoro-2-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-1H-indole-5-carbonitrile | 0.005 g, 31% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC=1OC(=NN1)C1=NC(=CC=C1)F)C(F)F | C18H9ClF3N5O
